US05883255
(±)-7-[1-[(2-Amino-2-methyl-1-oxopropyl)oxy]propyl]-8-methylindolizino[1,2-b]quinolin-9(11H)-one Hydrotrifluoroacetate
The title compound was prepared according to the procedure in Example 3B except using (±)-8-methyl-7-[1-[[2-[[(1,1-dimethylethoxy)carbonyl]amino]-2-methyl-1-oxopropyl]oxy]propyl]indolizino[1,2-b]quinolin-9(11H)-one. 1H NMR (DMSO-d6) d 8.67 (s, 1H), 8.11 (m, 2H), 7.84 (m, 1H), 7.70 (m, 1H), 7.21 (s, 1H), 5.85 (dd, J=7.9, 5.8 Hz, 1H), 5.25 (s, 2H), 2.24 (s, 3H), 2.1-1.83 (m, 2H), 1.52 (s, 3H), 1.49 (s, 3H), 0.97 (t, J=7.3 Hz, 3H). Anal. Calcd for C23H25N3O3.CF3CO2H.2 H2O: C, 55.45; H, 5.58; N, 7.76. Found: C, 55.85; H, 5.19; N, 7.83.

reactant | (±)-8-methyl-7-[1-[[2-[[(1,1-dimethylethoxy)carbonyl]amino]-2-methyl-1-oxopropyl]oxy]propyl]indolizino[1,2-b]quinolin-9(11H)-one | CC=1C(N2CC=3C(=NC4=CC=CC=C4C3)C2=CC1C(CC)OC(C(C)(C)NC(=O)OC(C)(C)C)=O)=O | C28H33N3O5
reactant | CF3CO2H | C(F)(F)(F)C(=O)O | C2HF3O2
solvent | H2O | O | H2O
product | (±)-7-[1-[(2-Amino-2-methyl-1-oxopropyl)oxy]propyl]-8-methylindolizino[1,2-b]quinolin-9(11H)-one | NC(C(=O)OC(CC)C1=C(C(N2CC=3C(=NC4=CC=CC=C4C3)C2=C1)=O)C)(C)C | C23H25N3O3
